US08871756B2
[2-(1,3,4,5-Tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]methanol
To the mixture of methyl 2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinoline-4-carboxylate (30 mg, 0.087 mmol) in tetrahydrofuran (2 mL) was added a tetrahydrofuran solution of borane (1.5 mL, 1.5 mmol) at 0° C. After being stirred at 70° C. for 4 hours, the mixture was quenched with methanol (5 mL) at 0° C. The solvent was removed in vacuo to give a residue which was purified by flash column (ethyl acetate/hexane, 3:7) to afford 16 mg of product as a white solid. MS obsd. (ESI+) [(M+H)+] 305. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.70 (d, J=8.0 Hz, 1 H), 7.56-7.44 (m, 3 H), 7.25 (s, 1 H), 7.16-7.07 (m, 4 H), 5.44 (t, J=4.2 Hz, 1 H), 4.86 (s, 2 H), 4.85 (s, 2 H), 4.18 (brs, 2 H), 3.04 (brs, 2 H), 1.80 (brs, 2 H).

reactant | methyl 2-(1,3,4,5-tetrahydro-2H-2-benzazepin-2-yl)quinoline-4-carboxylate | 0.087 mmol, 30 mg | C1N(CCCC2=C1C=CC=C2)C2=NC1=CC=CC=C1C(=C2)C(=O)OC | C21H20N2O2
reactant | borane | 1.5 mmol, 1.5 mL | B | BH3
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | [2-(1,3,4,5-Tetrahydro-2H-2-benzazepin-2-yl)quinolin-4-yl]methanol | 16 mg | C1N(CCCC2=C1C=CC=C2)C2=NC1=CC=CC=C1C(=C2)CO | C20H20N2O
